US05021431
N1 -[4-(3-Methoxy-pyridin-2-yl)butyl]-N2 -[3-(1H-imidazol-4-yl)propyl]guanidine trihydrochloride
0.75 g (1.7 mmol) of N1 -benzoyl-N2 -[4-(3-methoxy-pyridin-2-yl)butyl]-N3 -[3-(1H-imidazol-4-yl)propyl]guanidine and 15 ml of conc. hydrochloric acid are boiled under reflux for 18 hours. After cooling, the reaction mixture is diluted to 30 ml with water and extracted with 4×25 ml diethylether. The aqueous phase is then filtered and concentrated by evaporation under vacuum. The residue is taken up twice with 20 ml of absolute ethanol and again concentrated by evaporation. 0.74 g (98%) of a colourless, amorphous, highly hygroscopic solid is obtained.

reactant | N1 -benzoyl-N2 -[4-(3-methoxy-pyridin-2-yl)butyl]-N3 -[3-(1H-imidazol-4-yl)propyl]guanidine | 1.7 mmol, 0.75 g | C(C1=CC=CC=C1)(=O)NC(=NCCCCC1=NC=CC=C1OC)NCCCC=1N=CNC1 | C24H30N6O2
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | water | O | H2O
product | N1 -[4-(3-Methoxy-pyridin-2-yl)butyl]-N2 -[3-(1H-imidazol-4-yl)propyl]guanidine trihydrochloride | Cl.Cl.Cl.COC=1C(=NC=CC1)CCCCNC(=NCCCC=1N=CNC1)N | InChI=1S/C17H26N6O.3ClH/c1-24-16-8-5-10-20-15(16)7-2-3-9-21-17(18)22-11-4-6-14-12-19-13-23-14;;;/h5,8,10,12-13H,2-4,6-7,9,11H2,1H3,(H,19,23)(H3,18,21,22);3*1H
